US03953500
In 15 ml. of dimethylformamide is dissolved 1.97 g. of 1-chloroindan-4-carboxylic acid, followed by the addition of 1.47 g. of sodium cyanide. The mixture is stirred for 5 hours, after which 150 ml. of water and 10 ml. of concentrated hydrochloric acid are added. The resultant crystals are collected by filtration and recrystallized from benzene. The described procedure gives 1-cyanoindan-4-carboxylic acid, melting point: 206°-208°C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-chloroindan-4-carboxylic acid | ClC1CCC=2C(=CC=CC12)C(=O)O | C10H9ClO2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-cyanoindan-4-carboxylic acid | C(#N)C1CCC=2C(=CC=CC12)C(=O)O | C11H9NO2
